US06727264B1
N-(3-{1-[4-(4-ISOPROPYLPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure K and Scheme B1 using 4-chloro-1-(4-isopropylphenyl)-1-butanone and N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 421.3 (M+H)+.

reactant | 4-chloro-1-(4-isopropylphenyl)-1-butanone | ClCCCC(=O)C1=CC=C(C=C1)C(C)C | C13H17ClO
reactant | N-[3-(4-piperidinyl)phenyl]propanamide | N1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C14H20N2O
product | N-(3-{1-[4-(4-ISOPROPYLPHENYL)-4-OXOBUTYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | C(C)(C)C1=CC=C(C=C1)C(CCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O)=O | C27H36N2O2
